US04933355
5-{1-Ethoxycarbonyl-1-[2-(3-o-fluorophenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid 2/5 acetic acid adduct
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.7 g of ethyl 2-(3-o-fluorophenylureido)thiazol-4-ylglyoxylate, 0.96 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia and 20 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-o-fluorophenylureido)thiazol-4-ylglyoxylate | 1.7 g | FC1=C(C=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12FN3O4S
reactant | rhodanine-3-acetic acid | 0.96 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-(3-o-fluorophenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=C(C=CC=C1)F)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H15FN4O6S3
